US08871756B2
2-(4,6-Dichloroquinolin-2-yl)-2,3,4,5-tetrahydro-1H-2-benzazepine-7-carboxylic acid
Methyl 2-(4,6-dichloroquinolin-2-yl)-2,3,4,5-tetrahydro-1H-2-benzazepine-7-carboxylate (156 mg, 0.39 mmol) was added into the mixture of methanol (5 mL) and sodium hydroxide (5 M, 2 mL). The reaction mixture was stirred at room temperature overnight. After that, the reaction was diluted with 20 mL of water, acidified with 2 M of hydrochloric acid to pH 6 and diluted with ethyl acetate (30 mL). The organic layer was separated and washed with water. The solvent was dried over sodium sulfate and concentrated in vacuo to give a residue which was purified by column chromatography on silica gel to give 135 mg of product. MS obsd. (ESI+) [(M+H)+] 387.

reactant | Methyl 2-(4,6-dichloroquinolin-2-yl)-2,3,4,5-tetrahydro-1H-2-benzazepine-7-carboxylate | 0.39 mmol, 156 mg | ClC1=CC(=NC2=CC=C(C=C12)Cl)N1CC2=C(CCC1)C=C(C=C2)C(=O)OC | C21H18Cl2N2O2
reactant | methanol | 5 mL | CO | CH4O
reactant | sodium hydroxide | 5 M, 2 mL | [OH-].[Na+]
reactant | hydrochloric acid | 2 M | Cl | ClH
solvent | water | 20 mL | O | H2O
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 2-(4,6-Dichloroquinolin-2-yl)-2,3,4,5-tetrahydro-1H-2-benzazepine-7-carboxylic acid | 135 mg | ClC1=CC(=NC2=CC=C(C=C12)Cl)N1CC2=C(CCC1)C=C(C=C2)C(=O)O | C20H16Cl2N2O2
